US06642229B2
A solution of 2-aminopyrimidine (0.5 g, 5.26 mmol), bromoacetaldehyde diethyl acetal (2.07 g, 10.5 mmol) and 48% aqueous hydrobromic acid (0.5 ml) in ethanol (5 ml) was heated at reflux for 18 h. The reaction was cooled and pre-adsorbed directly onto silica gel. Purification by flash chromatography eluting with dichloromethane (containing 1% conc. ammonia) on a gradient of methanol (1-3%) gave a solid which was triturated with 5% diethyl ether in isohexane to afford imidazo[1,2-a]pyrimidine (0.51 g, 82%) as a tan solid: δH (400 MHz, CDCl3) 6.92 (1H, dd, J 7 and 4), 7.59 (1H, d, J 1), 7.84 (1H, d, J 1), 8.49 (1H, dd, J 7 and 2), 8.58 (1H, dd, J 7 and 2).

reactant | 2-aminopyrimidine | 5.26 mmol, 0.5 g | NC1=NC=CC=N1 | C4H5N3
reactant | bromoacetaldehyde diethyl acetal | 10.5 mmol, 2.07 g | C(C)OC(CBr)OCC | C6H13BrO2
reactant | hydrobromic acid | 0.5 ml | Br | BrH
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | imidazo[1,2-a]pyrimidine | 0.51 g, 82% | N=1C=CN2C1N=CC=C2 | C6H5N3
